US07601850B2
Preparation of [(5-{1-Ethyl-1-[4-(3-hydroxy-4,4-dimethyl-pentyl)-3-methyl-phenyl]-propyl}-3-methyl-thiophene-2-carbonyl)-amine]-acetic acid methyl ester
A mixture of 5-{1-ethyl-1-[4-(3-hydroxy-4,4-dimethyl-pentyl)-3-methyl-phenyl]-propyl}-3-methyl-thiophene-2-carboxylic acid (160 mg, 0.38 mmol), 2-amino-acetic acid methyl ester hydrochloride (53 mg, 0.42 mmol), EDCl (89 mg, 0.46 mmol) and triethylamine (0.134 ml, 0.96 mmol) in dichloromethane (5 ml) is stirred at RT overnight. The reaction is concentrated, partitioned between 1N HCl and EtOAc. The organic layer is concentrated and chromatographed (Hex to 30% EtOAc/Hex) to give the title compound (75 mg, 40%).

reactant | 5-{1-ethyl-1-[4-(3-hydroxy-4,4-dimethyl-pentyl)-3-methyl-phenyl]-propyl}-3-methyl-thiophene-2-carboxylic acid | 0.38 mmol, 160 mg | C(C)C(CC)(C1=CC(=C(C=C1)CCC(C(C)(C)C)O)C)C1=CC(=C(S1)C(=O)O)C | C25H36O3S
reactant | 2-amino-acetic acid methyl ester hydrochloride | 0.42 mmol, 53 mg | Cl.COC(CN)=O
reactant | EDCl | 0.46 mmol, 89 mg | CCN=C=NCCCN(C)C.Cl
reactant | triethylamine | 0.96 mmol, 0.134 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | [(5-{1-Ethyl-1-[4-(3-hydroxy-4,4-dimethyl-pentyl)-3-methyl-phenyl]-propyl}-3-methyl-thiophene-2-carbonyl)-amine]-acetic acid methyl ester | 75 mg, 40% | COC(C)=O.C(C)C(CC)(C1=CC(=C(C=C1)CCC(C(C)(C)C)O)C)C1=CC(=C(S1)C(=O)N)C | InChI=1S/C25H37NO2S.C3H6O2/c1-8-25(9-2,21-15-17(4)22(29-21)23(26)28)19-12-10-18(16(3)14-19)11-13-20(27)24(5,6)7;1-3(4)5-2/h10,12,14-15,20,27H,8-9,11,13H2,1-7H3,(H2,26,28);1-2H3
